US04675047
4,7-Dichloroquinazoline (prepared according to the method of Price et al, J. Am. Chem. Soc., 1946, 68, 1305) was reacted with 4-(N-methylamino)phenol sulfate, following essentially the same procedure as that described in Example 3 part a), to give 4-[N-(7-chloro-4-quinazolinyl)-N-methylamino]phenol as a yellow solid, mp 165° C.

reactant | 4,7-Dichloroquinazoline | ClC1=NC=NC2=CC(=CC=C12)Cl | C8H4Cl2N2
reactant | 4-(N-methylamino)phenol sulfate | S(=O)(=O)(O)OC1=CC=C(C=C1)NC | C7H9NO4S
product | 4-[N-(7-chloro-4-quinazolinyl)-N-methylamino]phenol | ClC1=CC=C2C(=NC=NC2=C1)N(C)C1=CC=C(C=C1)O | C15H12ClN3O
